US06492401B1
Acetoacetanilide (25.0 g, 0.14 mol) and sodium nitrite (12.65 g, 0.18 mol) were dissolved in aqueous sodium hydroxide solution (140 ml, 1 N) and the resulting solution was added dropwise over 20 min to an aqueous solution of sulfuric acid (120 ml conc. H2SO4 in 950 ml water) cooled in an ice bath. The reaction mixture was stirred at 0° C. for 30 min, then the precipitate was filtered and washed with water to yield 2-hydroxyiminoacetanilide (22.64 g, 78% yield) as a pale yellow solid.

reactant | Acetoacetanilide | 0.14 mol, 25.0 g | C(CC(=O)C)(=O)NC1=CC=CC=C1 | C10H11NO2
reactant | sodium nitrite | 0.18 mol, 12.65 g | N(=O)[O-].[Na+]
reactant | sulfuric acid | 120 ml | S(O)(O)(=O)=O | H2O4S
solvent | sodium hydroxide | 1 N, 140 ml | [OH-].[Na+]
product | 2-hydroxyiminoacetanilide | 22.64 g, 78% yield | ON=CC(=O)NC1=CC=CC=C1 | C8H8N2O2
